### PR TITLE
Add Erdős Problem 877 (maximal sum-free sets), link the formal proof

### LINKED ISSUE #6408: Erdős Problem 877
### What is the Erdős problem?

https://www.erdosproblems.com/877

Let $f_m(n)$ count the number of maximal sum-free subsets $A\subseteq\{1,\ldots,n\}$. Estimate $f(n)$ - is it true that $f_m(n)=o(2^{n/2})$?

Status: proved (Łuczak–Schoen [LuSc01]; Balogh–Liu–Sharifzadeh–Treglown [BLST15]). A formal proof exists in plby/lean-proofs (`Erdos877.erdos_877`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6408.

### What changed
Adds `FormalConjectures/ErdosProblems/877.lean` with `IsMaximalSumFree n A` (via the existing `IsSumFree`) and `fm n`:
- `erdos_877` (`research solved`, `answer(True)`): `f_m(n) = o(2^{n/2})`.
- `variants.luczak_schoen`: `f_m(n) ≤ 2^{cn}` for some `c < 1/2`.

Both linked to plby/lean-proofs `Erdos877.erdos_877` / `erdos_877_exponential_bound` (Codex and GPT-5.6 Sol; 43 Mathlib-only files).
- Sorry'd variants: Cameron–Erdős' `2^{n/4}` lower bound and the BLST asymptotic `2^{(1/4+o(1))n}`.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos877.erdos_877` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms:

<details>
<summary>Bridge</summary>

```lean
open Filter Asymptotics Real

namespace Bridge877

lemma sumFree_iff (A : Finset ℕ) : IsSumFree (A : Set ℕ) ↔ Erdos877Plby.SumFree A := by
  rw [_root_.isSumFree_iff]
  simp only [Finset.mem_coe, Erdos877Plby.SumFree]
  exact ⟨fun h b c hb hc => h b hb c hc, fun h b hb c hc => h hb hc⟩

lemma isMaximalSumFree_iff (n : ℕ) (A : Finset ℕ) :
    Erdos877.IsMaximalSumFree n A ↔
      Erdos877Plby.MaximalSumFreeIn (Erdos877Plby.interval n) A := by
  unfold Erdos877.IsMaximalSumFree Erdos877Plby.MaximalSumFreeIn Erdos877Plby.interval
  simp only [sumFree_iff]

lemma fm_eq (n : ℕ) : Erdos877.fm n = Erdos877Plby.maximalSumFreeCount n := by
  classical
  unfold Erdos877.fm Erdos877Plby.maximalSumFreeCount Erdos877Plby.maximalSumFreeSets
    Erdos877Plby.interval
  congr 1
  ext A
  simp only [Finset.mem_filter, isMaximalSumFree_iff, Erdos877Plby.interval]

theorem erdos_877_bridge : type_of% Erdos877.erdos_877 := by
  show True ↔ _
  simp only [true_iff, fm_eq]
  exact Erdos877Plby.erdos_877

theorem luczak_schoen : type_of% Erdos877.erdos_877.variants.luczak_schoen := by
  simp only [fm_eq]
  exact ⟨Erdos877Plby.resolutionExponent, Erdos877Plby.resolutionExponent_lt_half,
    Erdos877Plby.erdos_877_exponential_bound⟩

#print axioms Erdos877Plby.erdos_877
#print axioms erdos_877_bridge
#print axioms luczak_schoen

end Bridge877
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«877»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/877.lean [hunk 1]
```diff
@@ -0,0 +1,92 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/877.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
